US04866064
A mixture of 65.2 g of the thus obtained 2-amino-5-hexylthio-1,3,4-thiadiazole, 141.7 g of bis(2,4,6-trichlorophenyl) malonate and 240 ml of chlorobenzene was heated to 137°~140° C. and stirred for 1 hour. After cooling, hexane was added to the mixture, and the formed precipitate was separated by filtration, the residue was washed with hexane, and thus 74.7 g of 2-hexylthio-7-hydroxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained.

reactant | 2-amino-5-hexylthio-1,3,4-thiadiazole | NC=1SC(=NN1)SCCCCCC | C8H15N3S2
reactant | bis(2,4,6-trichlorophenyl) malonate | 141.7 g | C(CC(=O)OC1=C(C=C(C=C1Cl)Cl)Cl)(=O)OC1=C(C=C(C=C1Cl)Cl)Cl | C15H6Cl6O4
reactant | chlorobenzene | 240 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | hexane | CCCCCC | C6H14
product | 2-hexylthio-7-hydroxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 74.7 g, Yield 87% | C(CCCCC)SC1=NN2C(=NC(=CC2=O)O)S1 | C11H15N3O2S2
